US06660753B2
3-(3-(4-Dimethylaminobutoxy)-pyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole
Alternatively, treatment of 3-(3-fluoropyrid-2-yl)-5-(3-fluoro-5-cyanophenyl)-1,2,4-oxadiazole with potassium 4-dimethylaminobutoxide in N.N-dimethylformamide with a catalytic amount of 1,4,7,10,13,16-hexaoxacyclooctadecane (18-crown-6) and heating at 110° C. affords crude product. Standard work up and purification by one or more methods, including silica gel chromatography, recystallization, trituration, and reversed-phase high-performance liquid chromatography (RP-HPLC) affords purified 3-(3-(4-dimethylaminobutoxy)-pyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole.

reactant | 3-(3-fluoropyrid-2-yl)-5-(3-fluoro-5-cyanophenyl)-1,2,4-oxadiazole | FC=1C(=NC=CC1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)F | C14H6F2N4O
reactant | potassium 4-dimethylaminobutoxide | CN(CCCC[O-])C.[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | N.N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(3-(4-Dimethylaminobutoxy)-pyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole | CN(CCCCOC=1C(=NC=CC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)C#N)C | C20H20FN5O2
